US08648087B2
Step F: Preparation of 4-chloro-6-(2-methoxyethoxy)quinazoline:
To a solution of 4-chloroquinazolin-6-ol (1.00 g, 5.54 mmol), triphenyl phosphine (1.45 g, 5.54 mmol) and 2-methoxyethanol (0.421 g, 5.54 mmol) in dichloromethane (83 mL) was added diisopropyl azodicarboxylate (1.18 g, 5.54 mmol). After stirring at room temperature for 16 hours, the mixture was concentrated under reduced pressure. The residue was chromatographed (30% ethyl acetate in hexanes) to provide the product (1.15 g, 87%) as white solid.

reactant | 4-chloroquinazolin-6-ol | 5.54 mmol, 1.00 g | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
reactant | triphenyl phosphine | 5.54 mmol, 1.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methoxyethanol | 5.54 mmol, 0.421 g | COCCO | C3H8O2
reactant | diisopropyl azodicarboxylate | 5.54 mmol, 1.18 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 83 mL | ClCCl | CH2Cl2
product | 4-chloro-6-(2-methoxyethoxy)quinazoline | 1.15 g, 87% | ClC1=NC=NC2=CC=C(C=C12)OCCOC | C11H11ClN2O2
